US07163937B2
(1R,2S,5R)-Tert-butyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate (2.0 g) was dissolved in THF (50 mL) and water (15 mL) prior to the addition of NaBH4 (827 mg). After 5 h, the reaction was quenched with saturated NaHCO3 solution and extracted with EtOAc (2×). The organic extracts were combined, dried (MgSO4), filtered, and concentrated in vacuo to afford tert-butyl (1R,3R,4S)-4-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-3-(hydroxymethyl)cyclohexylcarbamate (2.1 g). MS (ES+)=462.5 (M+H)+.

reactant | (1R,2S,5R)-Tert-butyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate | 2.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H]2C(N([C@H](CC1)C2)C(=O)OC(C)(C)C)=O)=O | C24H31N3O6
reactant | water | 15 mL | O | H2O
reactant | NaBH4 | 827 mg | [BH4-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl (1R,3R,4S)-4-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-3-(hydroxymethyl)cyclohexylcarbamate | 2.1 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CO)=O | C24H35N3O6
